2196-01-19 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2196-1-18**] 01:30 PM
 PICC LINE - START [**2196-1-18**] 02:30 PM
 MIDLINE - START [**2196-1-18**] 02:30 PM
 BRONCHOSCOPY - At [**2196-1-18**] 03:20 PM
 PICC LINE - STOP [**2196-1-18**] 04:30 PM
 ARTERIAL LINE - START [**2196-1-19**] 01:09 AM
   - Intubated
   - I/O sp (Lasix 20mg IV)-> 1.6 liters negative at 1700
   - Bronch: BAL from Lingula, LLL. Scant frothy secretions throughout.
   Airways otherwise nl.
   - Influenza negative
   - ICU Consent Signed
   - PICC line went up into neck, pulled back to midline, will advance in
   AM.
   - Aline placed.
   - Overnight Pulse of at 90 while pa02 at 118. Unclear why the
   disconnect.
   - Urine output dropped off. MAPs stable in the 70s. Initially bolused
   250cc x two. Creatinine bumped to 1.3. Thought patient most likely dry
   secondary to Lasix -> 500cc NS.
   - Family updated.
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-18**] 11:18 PM
   Metronidazole - [**2196-1-19**] 12:00 AM
   Cefipime - [**2196-1-19**] 01:07 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2196-1-18**] 09:28 AM
   Propofol - [**2196-1-19**] 04:06 AM
   Fentanyl - [**2196-1-19**] 04:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-19**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 83 (71 - 92) bpm
   BP: 101/59(74) {88/48(3) - 103/61(76)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.5 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  1,462 mL
                                                                    849 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,302 mL
                                                                    849 mL
   Blood products:
   Total out:
                                                                  2,635 mL
                                                                    125 mL
   Urine:
                                                                  2,635 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,173 mL
                                                                    724 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 93%
   ABG: 7.38/56/92 /31/5
   Ve: 7.9 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bronchial breath sounds over L base. Otherwise clear.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: No foley
   Ext: Warm, well perfused, 1+ pulses, no edema
   Labs / Radiology
   212 K/uL
   12.9 g/dL
   139 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.2 mEq/L
   21 mg/dL
   96 mEq/L
   134 mEq/L
   38.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2196-1-18**]  03:35 AM
                             [**2196-1-18**]  04:00 AM
                             [**2196-1-18**]  04:34 PM
                             [**2196-1-18**]  05:39 PM
                             [**2196-1-18**]  09:24 PM
                             [**2196-1-19**]  12:50 AM
                             [**2196-1-19**]  12:59 AM
   WBC
   7.6
   6.7
   Hct
   40.4
   38.9
   Plt
   196
   212
   Cr
   1.1
   1.2
   1.3
   TropT
   <0.01
   TCO2
   34
   35
   34
   34
   Glucose
   116
   102
   139
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:134/2/<0.01, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:73.7 %, Lymph:14.2 %, Mono:4.4 %, Eos:7.0 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   [**2196-1-19**] CXR: Final read pending;
   [**2196-1-18**] CXR: Final read pending; Unchanged bibasilar opacification,
   bilateral pleural effusions and interstitial prominence.
[**2196-1-18**] 3:42 pm Rapid Respiratory Viral Screen & Culture
      BRONCHIAL LAVAGE FLUID.
   Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2196-1-18**]):
      Respiratory viral antigen test is uninterpretable due to the lack of
      cells.
      Refer to respiratory viral culture for further information.
[**2196-1-18**] 3:42 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL LAVAGE FLUID.
   GRAM STAIN (Final [**2196-1-18**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
   POTASSIUM HYDROXIDE PREPARATION (Preliminary):
   Immunoflourescent test for Pneumocystis jirovecii (carinii)
      (Preliminary):
   FUNGAL CULTURE (Preliminary):
   ACID FAST SMEAR (Preliminary):
   ACID FAST CULTURE (Preliminary):
   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   Assessment and Plan
   52 year-old gentleman with history of HTN, HL, CVA in [**2184**] with
   residual L-side weakness, HIV on HAART with most recent CD4 of 442 and
   undetectable VL on [**8-1**] who presented with LLL [**Hospital 10251**] transferred to
   MICU for hypoxia.
   .
   # Hypoxia/Respiratory Failure. Stable and not clearly improving.
   Unclear etiology. Perhaps related with LLL pneumonia which was seen on
   CT but has not been clearly demonstrated on repeat CXR. Urine
   legionella negative, PCP [**Name Initial (PRE) 442**] (last CD4 count 442), Flu negative.
   BNP 34, less likely CHF although with bilateral pleural effusion.
   Troponin negative x 2 set, unlikely MI. PE very low likelihood given
   other findings as per above.
   - Continue Vanc, Cefepime, Flagyl to cover for HAP and aspiration
   pneumonia (day 1 = [**1-16**])
   - Vancomycin trough this PM
   - Follow BAL cultures
   - Obtain echo
   - Trend CXR
   - Trend cardiac enzymes
   - Ipratropium nebs q6h, Albuterol nebs q2h
   - Wean vent as tolerate; continue ARDSnet protocol
   - Obtain blood culture
   - Consider re-bronch in PM to recheck cell count, keep in mind may need
   to broaden coverage empirically if no significant improvement
   .
   # HIV - Pt has been well controlled with CD4 count most recently 442
   and VL undetectable.
   - Continue home-regimen of Ritonavir, Saquinavir; will give liquid
   Ritonavir and break up Saquinavir capsule and give through OG. Will
   monitor given concern for Ritonavir in reducing Fentanyl clearance.
   - Consult ID formally regarding HIV and also lack of clear improvement
   during this time
   .
   # Chronic Diastolic Heart Failure with EF 40%. Patient looks euvolemic.
   Question acute exacerbation in the setting of infection. Will closely
   monitor fluid status and BP.
   - Obtain echo
   - Hold ACEI and beta-blocker given hypotensive episodes
   - Gentle IVF prn low UOP
   - I/O goal to -500cc
   .
   # Coronary Artery Disease. Patient s/p CABG. Chest pain free.
   - Hold ACEI and beta-blocker given hypotensive episodes
   - Continue statin
   .
   # Hypertension. Will let be slightly hypertensive for now given
   infection and wanting to avoid hypotension. Continue home regimen.
   - Continue ACEI and beta-blocker
   .
   # HCV. Patient not candidate for therapy and has had negative
   malignancy work up with USGs and AFP.
   .
   # FEN: IVF bolus prn, replete electrolytes, NPO currently and consider
   OG tube for tube feeds
   # Prophylaxis: Subcutaneous heparin, bowel regimen; famotidine
   # Access: Peripherals, arterial line, PICC line advancement in AM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-1-18**] 03:09 AM
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-01-19 10:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Bronch yesterday --> cxs pending
   Remains on FIO2 0.8, PEEP of 12
   1.1L negative yesterday
   24 Hour Events:
 INVASIVE VENTILATION - START [**2196-1-18**] 01:30 PM
 PICC LINE - START [**2196-1-18**] 02:30 PM
 MIDLINE - START [**2196-1-18**] 02:30 PM
 BRONCHOSCOPY - At [**2196-1-18**] 03:20 PM
 PICC LINE - STOP [**2196-1-18**] 04:30 PM
 ARTERIAL LINE - START [**2196-1-19**] 01:09 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-18**] 11:18 PM
   Metronidazole - [**2196-1-19**] 08:00 AM
   Cefipime - [**2196-1-19**] 08:33 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2196-1-19**] 04:06 AM
   Fentanyl - [**2196-1-19**] 04:07 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-1-19**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 82 (71 - 92) bpm
   BP: 109/60(78) {88/48(3) - 109/64(81)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.5 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  1,462 mL
                                                                  1,082 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,302 mL
                                                                  1,082 mL
   Blood products:
   Total out:
                                                                  2,635 mL
                                                                    275 mL
   Urine:
                                                                  2,635 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,173 mL
                                                                    807 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/56/91.[**Numeric Identifier 143**]/31/5
   Ve: 7.9 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   212 K/uL
   139 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.2 mEq/L
   21 mg/dL
   96 mEq/L
   134 mEq/L
   38.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2196-1-18**]  03:35 AM
                             [**2196-1-18**]  04:00 AM
                             [**2196-1-18**]  04:34 PM
                             [**2196-1-18**]  05:39 PM
                             [**2196-1-18**]  09:24 PM
                             [**2196-1-19**]  12:50 AM
                             [**2196-1-19**]  12:59 AM
   WBC
   7.6
   6.7
   Hct
   40.4
   38.9
   Plt
   196
   212
   Cr
   1.1
   1.2
   1.3
   TropT
   <0.01
   0.02
   TCO2
   34
   35
   34
   34
   Glucose
   116
   102
   139
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:73.7 %, Lymph:14.2 %, Mono:4.4 %, Eos:7.0 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: BAL cell count: 74P, 15L, 3E
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 DYSPNEA (SHORTNESS OF BREATH)
 OLIGURIA/ANURIA
   53 yo man with HIV (CD4 of 500) with hypoxemic respiratory failure of
   unclear etiology, L>R infiltrates on CT.
   1. Respiratory Failure
   --Continues to require high FIO2
   --Awaiting BAL cx results
   --Cell count on BAL with 3% eos, 7% eos peripherally
   --Cont vanc/cefepime/flagyl
   --TTE
   --ARDSnet ventilation
   --goal neg 500cc
   2. HIV
   --Restart HAART now that he has NG tube access
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-1-18**] 03:09 AM
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  will start
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2196-01-20 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pneumonia, Hypoxic Respiratory Failure
   24 Hour Events:
   - ID consulted and noted that they will see tomorrow after we have
   further culture data from BAL.
   - Repeat chest CT ordered during early afternoon given patient's lack
   of clinical improvement
   - Based on these findings, we will likely consider bronch on [**1-20**].
   Throughout the evening, tried to wean down FiO2 (even while increasing
   PEEP)
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2196-1-19**] 08:00 PM
   Vancomycin - [**2196-1-19**] 09:00 PM
   Metronidazole - [**2196-1-20**] 12:23 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2196-1-19**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-19**] 11:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-20**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 77 (77 - 89) bpm
   BP: 123/66(86) {92/60(73) - 130/79(98)} mmHg
   RR: 14 (14 - 16) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.5 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,174 mL
                                                                    762 mL
   PO:
             TF:
                                                                     29 mL
                                                                    139 mL
   IVF:
                                                                  2,085 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    545 mL
   Urine:
                                                                    960 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,214 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 91%
   ABG: 7.38/51/77/31/3
   Ve: 7.9 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bronchial breath sounds over L base. Otherwise clear.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: No foley
   Ext: Warm, well perfused, 1+ pulses, no edema
   Labs / Radiology
   222 K/uL
   12.3 g/dL
   106 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.2 mEq/L
   19 mg/dL
   98 mEq/L
   133 mEq/L
   36.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2196-1-18**]  05:39 PM
                             [**2196-1-18**]  09:24 PM
                             [**2196-1-19**]  12:50 AM
                             [**2196-1-19**]  12:59 AM
                             [**2196-1-19**]  12:20 PM
                             [**2196-1-19**]  06:51 PM
                             [**2196-1-19**]  08:03 PM
                             [**2196-1-20**]  02:57 AM
                             [**2196-1-20**]  03:16 AM
                             [**2196-1-20**]  05:54 AM
   WBC
   6.7
   5.9
   Hct
   38.9
   36.6
   Plt
   212
   222
   Cr
   1.3
   1.1
   1.0
   TropT
   0.02
   TCO2
   35
   34
   34
   33
   33
   34
   31
   Glucose
   139
   109
   106
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:73.7 %, Lymph:14.2 %, Mono:4.4 %, Eos:7.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Vanc Trough: 17.9
   Imaging:
   CT Chest: Worsening opacities consistent with multifocal pneumonia.
   Echo: EF 40-45%, LV focal distal septal/apical hypokinesis is suggested
   though poor image quality. Severe pulmonary artery systolic
   hypertension.
   [**Year (4 digits) 6452**]: [**2196-1-18**] 3:42 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL
   LAVAGE FLUID.
      GRAM STAIN (Final [**2196-1-18**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
      POTASSIUM HYDROXIDE PREPARATION (Final [**2196-1-19**]):
         TEST CANCELLED, PATIENT CREDITED.
         This is a low yield procedure based on our in-house studies if
         pulmonary Histoplasmosis, Coccidioidomycosis, Blastomycosis,
         Aspergillosis or Mucormycosis is strongly suspected, contact the
         [**Name2 (NI) 6452**] Laboratory (7-2306).
      Immunoflourescent test for Pneumocystis jirovecii (carinii)
         (Preliminary):
      FUNGAL CULTURE (Preliminary):
      ACID FAST SMEAR (Final [**2196-1-19**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   Assessment and Plan
   52 year-old gentleman with history of HTN, HL, CVA in [**2184**] with
   residual L-side weakness, HIV on HAART with most recent CD4 of 442 and
   undetectable VL on [**8-1**] who presented with LLL [**Hospital 10251**] transferred to
   MICU for hypoxia.
   .
   # Hypoxia/Respiratory Failure. CT with worsening multifocal pneumonia.
   However, FiO2 requirement lower today. Clinically improved.   Urine
   legionella negative, PCP [**Name Initial (PRE) 442**] (last CD4 count 442), Flu negative.
   BNP 34, less likely CHF although with bilateral pleural effusion.
   Troponin negative x 2 set, unlikely MI. PE very low likelihood given
   other findings as per above. Severe pulmonary hypertension most likely
   an underlying contributor.
   - Continue Vanc, Cefepime, Flagyl to cover for HAP and aspiration
   pneumonia (day 1 = [**1-16**]). No need to expand Pseudomonal coverage at
   present.
   - Follow BAL cultures
   - Trend CXR
   - Ipratropium nebs q6h, Albuterol nebs q2h
   - Wean vent as tolerate; continue ARDSnet protocol
   - Obtain blood culture
   - Defer on Bronch today.
   - Appreciate ID Recommendations
   .
   # HIV - Pt has been well controlled with CD4 count most recently 442
   and VL undetectable.
   - Continue home-regimen of Ritonavir, Saquinavir; will give liquid
   Ritonavir and break up Saquinavir capsule and give through OG. Will
   monitor given concern for Ritonavir in reducing Fentanyl clearance.
   - Appreciate ID Recommendations
   .
   # Chronic Diastolic Heart Failure with EF 40%. ECHO without definite
   change since [**2191**]. Question acute exacerbation in the setting of
   infection. Will closely monitor fluid status and BP.
   - Hold ACEI and beta-blocker given hypotensive episodes
   - Gentle IVF prn low UOP
   - I/O goal to Even
   .
   # Coronary Artery Disease. Patient s/p CABG. Chest pain free.
   - Hold ACEI and beta-blocker given hypotensive episodes
   - Continue statin
   .
   # Hypertension. Will let be slightly hypertensive for now given
   infection and wanting to avoid hypotension. Continue home regimen.
   - Continue ACEI and beta-blocker
   .
   # HCV. Patient not candidate for therapy and has had negative
   malignancy work up with USGs and AFP.
   .
   # FEN: IVF bolus prn, replete electrolytes, NPO currently and consider
   OG tube for tube feeds
   # Prophylaxis: Subcutaneous heparin, bowel regimen; famotidine
   # Access: Peripherals, arterial line, PICC line advancement in AM
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2196-1-19**] 09:05 PM 20 mL/hour
   Lines:
   20 Gauge - [**2196-1-18**] 03:09 AM
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer:  Famotidine
   VAP:  Bed to 30 Degrees, Mouth Care
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2196-01-20 10:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   FIO2 able to weaned to 40% with increase of PEEP
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2196-1-19**] 08:00 PM
   Vancomycin - [**2196-1-19**] 09:00 PM
   Metronidazole - [**2196-1-20**] 12:23 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2196-1-19**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-19**] 11:22 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-1-20**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.3
C (97.4
   HR: 78 (77 - 89) bpm
   BP: 115/73(89) {92/60(77) - 130/79(98)} mmHg
   RR: 16 (14 - 16) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.5 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,174 mL
                                                                    873 mL
   PO:
             TF:
                                                                     29 mL
                                                                    202 mL
   IVF:
                                                                  2,085 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                    755 mL
   Urine:
                                                                    960 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,214 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 92%
   ABG: 7.38/51/77/31/3
   Ve: 8.9 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   222 K/uL
   106 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.2 mEq/L
   19 mg/dL
   98 mEq/L
   133 mEq/L
   36.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2196-1-18**]  05:39 PM
                             [**2196-1-18**]  09:24 PM
                             [**2196-1-19**]  12:50 AM
                             [**2196-1-19**]  12:59 AM
                             [**2196-1-19**]  12:20 PM
                             [**2196-1-19**]  06:51 PM
                             [**2196-1-19**]  08:03 PM
                             [**2196-1-20**]  02:57 AM
                             [**2196-1-20**]  03:16 AM
                             [**2196-1-20**]  05:54 AM
   WBC
   6.7
   5.9
   Hct
   38.9
   36.6
   Plt
   212
   222
   Cr
   1.3
   1.1
   1.0
   TropT
   0.02
   TCO2
   35
   34
   34
   33
   33
   34
   31
   Glucose
   139
   109
   106
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:73.7 %, Lymph:14.2 %, Mono:4.4 %, Eos:7.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 DYSPNEA (SHORTNESS OF BREATH)
 OLIGURIA/ANURIA
   53 yo man with HIV (CD4 of 500) with hypoxemic respiratory failure of
   unclear etiology, L>R infiltrates on CT.
   1. Respiratory Failure
   --BAL unrevealing to this point
   --Cont vanc/cefepime/flagyl
   --Less hypoxemic with PEEP of 15
   --Hold on rebronch for now
   --Evidence of pulm HTN on TTE --> could be [**1-26**] HIV
   2. HIV
   --Restart HAART now that he has NG tube access
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2196-1-19**] 09:05 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-1-18**] 03:09 AM
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2196-01-21 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypoxic Respiratory Failure
   24 Hour Events:
   - ID Recs: Did not come by.
   - I/O: Positive at [**2185**], 20mg IV Lasix given
   - Updated Family.
   - Tried to decrease PEEP without success
   - Changed sedation to bolus.
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-20**] 08:24 PM
   Cefipime - [**2196-1-20**] 08:24 PM
   Metronidazole - [**2196-1-21**] 12:39 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-1-20**] 12:27 PM
   Furosemide (Lasix) - [**2196-1-20**] 08:34 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-20**] 10:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-21**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 81 (78 - 94) bpm
   BP: 122/60(80) {94/60(79) - 145/90(103)} mmHg
   RR: 15 (14 - 19) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.5 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,644 mL
                                                                    726 mL
   PO:
             TF:
                                                                    587 mL
                                                                    330 mL
   IVF:
                                                                  1,617 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    510 mL
   Urine:
                                                                  2,535 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    109 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 91%
   ABG: 7.38/51/77/33/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General: Alert, oriented, no acute distress, Sedated, Intubated,
   Twitching of facial muscles.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bronchial breath sounds over L base. Otherwise clear.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: No foley
   Ext: Warm, well perfused, 1+ pulses, no edema
   Labs / Radiology
   264 K/uL
   12.6 g/dL
   122 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.1 mEq/L
   20 mg/dL
   99 mEq/L
   135 mEq/L
   37.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2196-1-19**]  12:59 AM
                             [**2196-1-19**]  12:20 PM
                             [**2196-1-19**]  06:51 PM
                             [**2196-1-19**]  08:03 PM
                             [**2196-1-20**]  02:57 AM
                             [**2196-1-20**]  03:16 AM
                             [**2196-1-20**]  05:54 AM
                             [**2196-1-20**]  04:30 PM
                             [**2196-1-20**]  07:41 PM
                             [**2196-1-21**]  02:07 AM
   WBC
   5.9
   8.0
   Hct
   36.6
   37.0
   Plt
   222
   264
   Cr
   1.1
   1.0
   1.0
   TCO2
   34
   33
   33
   34
   31
   32
   31
   Glucose
   109
   106
   122
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:73.7 %, Lymph:14.2 %, Mono:4.4 %, Eos:7.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Imaging: CT Chest: 1. Interval progression of multifocal pneumonia with
   more confluent opacities
   within the lingula, left lower lobe, and right lower lobe. No residual
   pleural effusions. Slight progression in adenopathy is also likely
   reactive,
   but can be re-assessed on follow up exams once infection resolves.
   2. Dilated pulmonary artery consistent with known severe pulmonary
   hypertension (also noted on recent echo) which may HIV induced.
   Unchanged
   cholelithiasis without any secondary signs of acute cholecystitis.
   CXR: Pending
   Microbiology: [**2196-1-18**] 3:42 pm BRONCHOALVEOLAR LAVAGE      BRONCHIAL
   LAVAGE FLUID.
      GRAM STAIN (Final [**2196-1-18**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2196-1-20**]):    NO GROWTH, <1000 CFU/ml.
      POTASSIUM HYDROXIDE PREPARATION (Final [**2196-1-20**]):
         KOH TEST REQUESTED BY DR [**Last Name (STitle) **] [**2196-1-20**].
         NO FUNGAL ELEMENTS SEEN.
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2196-1-20**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2196-1-19**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
         No Virus isolated so far.
   Assessment and Plan
   52 year-old gentleman with history of HTN, HL, CVA in [**2184**] with
   residual L-side weakness, HIV on HAART with most recent CD4 of 442 and
   undetectable VL on [**8-1**] who presented with LLL [**Hospital 10251**] transferred to
   MICU for hypoxia.
   .
   # Hypoxia/Respiratory Failure. CT with worsening multifocal pneumonia
   from [**1-20**]. Difficulty reducing PEEP overnight. Fi02 stable. Urine
   legionella negative, PCP [**Name Initial (PRE) 442**] (last CD4 count 442), Flu negative.
   BNP 34, less likely CHF although with bilateral pleural effusion.
   Troponin negative x 2 set, unlikely MI. PE very low likelihood given
   other findings as per above. Severe pulmonary hypertension most likely
   an underlying contributor.
   - Continue Vanc, Cefepime, Flagyl to cover for HAP and aspiration
   pneumonia (day 1 = [**1-16**]). No need to expand Pseudomonal coverage at
   present.
   - Follow BAL cultures
   - Trend CXR
   - Ipratropium nebs q6h, Albuterol nebs q2h
   - Wean vent as tolerate; continue ARDSnet protocol
   - Obtain blood culture
   - Follow ID recommendations (they will see if BAL comes back positive)
   .
   # Seizure/ s/p CVA. Patient had 10 second episode this morning of what
   appeared to be partial seizure, self-resolved, no post-ictal signs.
   Patient notes that he has had these episodes s/p CVA.
   - Obtain neurology records
   - Continue Ativan prn
   .
   # HIV - Pt has been well controlled with CD4 count most recently 442
   and VL undetectable.
   - Continue home-regimen of Ritonavir, Saquinavir; will give liquid
   Ritonavir and break up Saquinavir capsule and give through OG. Will
   monitor given concern for Ritonavir in reducing Fentanyl clearance.
   - Appreciate ID Recommendations
   .
   # Chronic Diastolic Heart Failure with EF 40%. ECHO without definite
   change since [**2191**]. Question acute exacerbation in the setting of
   infection. Will closely monitor fluid status and BP.
   - Hold ACEI and beta-blocker given hypotensive episodes
   - Gentle IVF prn low UOP
   - I/O goal to Even
   .
   # Coronary Artery Disease. Patient s/p CABG. Chest pain free.
   - Hold ACEI and beta-blocker given hypotensive episodes
   - Continue statin
   .
   # Hypertension. Will let be slightly hypertensive for now given
   infection and wanting to avoid hypotension. Continue home regimen.
   - Continue ACEI and beta-blocker
   .
   # HCV. Patient not candidate for therapy and has had negative
   malignancy work up with USGs and AFP.
   .
   # FEN: IVF bolus prn, replete electrolytes, NPO currently and consider
   OG tube for tube feeds
   # Prophylaxis: Subcutaneous heparin, bowel regimen; famotidine
   # Access: Peripherals, arterial line, midline
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2196-1-20**] 10:34 PM 50 mL/hour
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT:  Subcutaneous Heparin
   Stress ulcer:  Famotidine
   VAP:  Per Protocol
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending clinical improvement

2196-01-21 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did not tolerate attempt to wean PEEP overnight --> dropped O2 sats
   24 Hour Events:
   Sz-like activity this AM --> pt was able to epress to the team that he
   has had these in the past since his stroke
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2196-1-20**] 08:24 PM
   Cefipime - [**2196-1-21**] 08:00 AM
   Metronidazole - [**2196-1-21**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-1-20**] 12:27 PM
   Furosemide (Lasix) - [**2196-1-20**] 08:34 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-20**] 10:34 PM
   Fentanyl - [**2196-1-21**] 08:40 AM
   Midazolam (Versed) - [**2196-1-21**] 08:45 AM
   Lorazepam (Ativan) - [**2196-1-21**] 09:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-1-21**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 80 (74 - 94) bpm
   BP: 119/65(84) {95/56(78) - 145/90(103)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,644 mL
                                                                  1,090 mL
   PO:
             TF:
                                                                    587 mL
                                                                    508 mL
   IVF:
                                                                  1,617 mL
                                                                    351 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    750 mL
   Urine:
                                                                  2,535 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    109 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 93%
   ABG: 7.38/51/77/33/3
   Ve: 9 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.6 g/dL
   264 K/uL
   122 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.1 mEq/L
   20 mg/dL
   99 mEq/L
   135 mEq/L
   37.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2196-1-19**]  12:59 AM
                             [**2196-1-19**]  12:20 PM
                             [**2196-1-19**]  06:51 PM
                             [**2196-1-19**]  08:03 PM
                             [**2196-1-20**]  02:57 AM
                             [**2196-1-20**]  03:16 AM
                             [**2196-1-20**]  05:54 AM
                             [**2196-1-20**]  04:30 PM
                             [**2196-1-20**]  07:41 PM
                             [**2196-1-21**]  02:07 AM
   WBC
   5.9
   8.0
   Hct
   36.6
   37.0
   Plt
   222
   264
   Cr
   1.1
   1.0
   1.0
   TCO2
   34
   33
   33
   34
   31
   32
   31
   Glucose
   109
   106
   122
   Other labs: PT / PTT / INR:13.4/31.2/1.1, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:73.7 %, Lymph:14.2 %, Mono:4.4 %, Eos:7.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 DYSPNEA (SHORTNESS OF BREATH)
 OLIGURIA/ANURIA
   53 yo man with HIV (CD4 of 500) with hypoxemic respiratory failure and
   b/l infiltrates of unclear etiology.
   1. Respiratory Failure: bilateral infiltrates plus mild-mod pulm HTN
   --Cont vanc/cefepime/flagyl
   --Remains dependent on 15 of PEEP to maintain oxygenation
   --Recheck peripheral eosinophila
   2. HIV
   --HAART --> boosted single drug regimen
   3. Seizure:
   --Appears to be chronic issue for which he was only being monitored.
   Will contact his [**Name2 (NI) 265**] neurologist.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2196-1-20**] 10:34 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2196-01-22 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - AC 550 x 14, 12 PEEP - brief desat then spontaneously rose, so
   decided to wait for a while. ABG 7.4  51  72.
   - Simple partial motor siezure unilateral on left noted at 7 a.m. then
   bilateral later with reduced mental status. Neurology [**2187-1-25**]
   recommended dilantin 250 mg, but not taken and patient comfortable
   without at present. Suffered for about 10 years s/p stroke. Was given 1
   mg Ativan after bilateral seizure.
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2196-1-21**] 07:59 PM
   Vancomycin - [**2196-1-21**] 08:57 PM
   Metronidazole - [**2196-1-22**] 12:02 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2196-1-21**] 09:00 AM
   Midazolam (Versed) - [**2196-1-21**] 01:25 PM
   Fentanyl - [**2196-1-21**] 04:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-22**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 73 (72 - 86) bpm
   BP: 131/75(93) {93/56(72) - 132/83(98)} mmHg
   RR: 14 (14 - 17) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,570 mL
                                                                    557 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    356 mL
   IVF:
                                                                    840 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    740 mL
   Urine:
                                                                  1,680 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 92%
   ABG: 7.40/48/77/31/3
   Ve: 7.8 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General: Alert, oriented, no acute distress, Intubated.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bronchial breath sounds over L base. Otherwise clear.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: No foley
   Ext: Warm, well perfused, 1+ pulses, no edema
   Labs / Radiology
   223 K/uL
   11.8 g/dL
   115 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   19 mg/dL
   99 mEq/L
   135 mEq/L
   35.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2196-1-20**]  02:57 AM
                             [**2196-1-20**]  03:16 AM
                             [**2196-1-20**]  05:54 AM
                             [**2196-1-20**]  04:30 PM
                             [**2196-1-20**]  07:41 PM
                             [**2196-1-21**]  02:07 AM
                             [**2196-1-21**]  02:33 PM
                             [**2196-1-21**]  04:39 PM
                             [**2196-1-22**]  12:51 AM
                             [**2196-1-22**]  02:47 AM
   WBC
   5.9
   8.0
   8.7
   Hct
   36.6
   37.0
   35.5
   Plt
   222
   264
   223
   Cr
   1.0
   1.0
   0.8
   TCO2
   34
   31
   32
   31
   34
   33
   31
   Glucose
   106
   122
   115
   Other labs: PT / PTT / INR:13.6/39.9/1.2, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:74.0 %, Lymph:13.3 %, Mono:6.9 %, Eos:5.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   [**2196-1-22**] CXR
 Pending
   NO NEW CULTURE DATA.
   Assessment and Plan
   52 year-old gentleman with history of HTN, HL, CVA in [**2184**] with
   residual L-side weakness, HIV on HAART with most recent CD4 of 442 and
   undetectable VL on [**8-1**] who presented with LLL [**Hospital 10251**] transferred to
   MICU for hypoxia.
   # Hypoxia/Respiratory Failure. CT with worsening multifocal pneumonia
   from [**1-20**]. Difficulty reducing PEEP overnight. Fi02 stable. Urine
   legionella negative, PCP [**Name Initial (PRE) 442**] (last CD4 count 442), Flu negative.
   BNP 34, less likely CHF although with bilateral pleural effusion.
   Troponin negative x 2 set, unlikely MI. PE very low likelihood given
   other findings as per above. Severe pulmonary hypertension most likely
   an underlying contributor. BAL negative
   - Continue Vanc, Cefepime, Flagyl to cover for HAP and aspiration
   pneumonia (day 1 = [**1-16**]). No need to expand Pseudomonal coverage at
   present.
   - Trend CXR
   - Ipratropium nebs q6h, Albuterol nebs q2h
   - Wean vent as tolerate; continue ARDSnet protocol
   - Obtain blood cultures for tomorrow AM
   - Consider ID (BAL has come back negative)
   # Seizure d/o s/p CVA. Patient had 10 second episode this morning of
   what appeared to be partial seizure, self-resolved, no post-ictal
   signs. Appears to be simple partial. Patient notes that he has had
   these episodes s/p CVA. Patient last saw neurology for these episodes
   in [**2186**]. He has not had treatment for it since that time (although they
   had recommended Dilantin), and does not express desire to obtain
   treatment for it.
   - Continue Ativan prn
   # HIV. Pt has been well controlled with CD4 count most recently 442 and
   VL undetectable.
   - Continue home-regimen of Ritonavir, Saquinavir; will give liquid
   Ritonavir and break up Saquinavir capsule and give through OG. Will
   monitor given concern for Ritonavir in reducing Fentanyl clearance.
   - Appreciate ID Recommendations
   # Chronic Diastolic Heart Failure with EF 40%. ECHO without definite
   change since [**2191**]. Question acute exacerbation in the setting of
   infection. Will closely monitor fluid status and BP.
   - Hold ACEI and beta-blocker given hypotensive episodes
   - Gentle IVF prn low UOP
   - I/O goal to even
   # Coronary Artery Disease. Patient s/p CABG. Chest pain free.
   - Hold ACEI and beta-blocker given hypotensive episodes
   - Continue statin
   # Hypertension. Will let be slightly hypertensive for now given
   infection and wanting to avoid hypotension. Continue home regimen.
   - Hold ACEI and beta-blocker given hypotensive episodes
   # HCV. Patient not candidate for therapy and has had negative
   malignancy work up with USGs and AFP.
   # FEN: IVF bolus prn, replete electrolytes, tube feeds;
   # Prophylaxis: Subcutaneous heparin, bowel regimen; famotidine
   # Access: Peripherals, arterial line, midline
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2196-1-21**] 06:32 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-01-22 11:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Increased secretions this AM
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2196-1-22**] 08:05 AM
   Metronidazole - [**2196-1-22**] 08:20 AM
   Vancomycin - [**2196-1-22**] 09:41 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2196-1-21**] 01:25 PM
   Fentanyl - [**2196-1-21**] 04:39 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-22**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: No(t) Dyspnea, mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-1-22**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 73 (70 - 86) bpm
   BP: 135/70(92) {93/56(72) - 143/83(103)} mmHg
   RR: 15 (14 - 17) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,570 mL
                                                                  1,478 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    548 mL
   IVF:
                                                                    840 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                  1,050 mL
   Urine:
                                                                  1,680 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/48/77/31/3
   Ve: 9.1 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, alert - able to
   communicate with letter board
   [**Name (NI) 582**] / Radiology
   11.8 g/dL
   223 K/uL
   113
   0.8 mg/dL
   31 mEq/L
   3.7 mEq/L
   19 mg/dL
   99 mEq/L
   135 mEq/L
   35.5 %
   8.7 K/uL
        [image002.jpg]
                             [**2196-1-20**]  03:16 AM
                             [**2196-1-20**]  05:54 AM
                             [**2196-1-20**]  04:30 PM
                             [**2196-1-20**]  07:41 PM
                             [**2196-1-21**]  02:07 AM
                             [**2196-1-21**]  02:33 PM
                             [**2196-1-21**]  04:39 PM
                             [**2196-1-22**]  12:51 AM
                             [**2196-1-22**]  02:47 AM
                             [**2196-1-22**]  10:00 AM
   WBC
   8.0
   8.7
   Hct
   37.0
   35.5
   Plt
   264
   223
   Cr
   1.0
   0.8
   TCO2
   34
   31
   32
   31
   34
   33
   31
   Glucose
   122
   115
   113
   Other [**Year (4 digits) **]: PT / PTT / INR:13.6/39.9/1.2, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:74.0 %, Lymph:13.3 %, Mono:6.9 %, Eos:5.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 DYSPNEA (SHORTNESS OF BREATH)
 OLIGURIA/ANURIA
   53 yo man with HIV (CD4 of 500) with hypoxemic respiratory failure and
   b/l infiltrates of unclear etiology.
   1. Respiratory Failure: bilateral infiltrates plus mild-mod pulm HTN
   --Cont vanc/cefepime/flagyl
   --PEEP down to 12 --> change to PSV
   --Increased secretions --> send culture
   2. HIV
   --HAART --> boosted single drug regimen
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2196-1-21**] 06:32 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2196-01-23 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: HIV, Hypoxic Respiratory Failure
   24 Hour Events:
   - Restarted patient's Lisinopril and Metoprolol.
   - Patient with abundant sputum production from ETT in morning. Sent for
   culture and preliminarily negative.
   - Weaned to PSV 10/10 FiO2 40% during late evening.
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2196-1-22**] 03:37 PM
   Cefipime - [**2196-1-22**] 07:58 PM
   Vancomycin - [**2196-1-22**] 09:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-1-22**] 11:35 AM
   Heparin Sodium (Prophylaxis) - [**2196-1-22**] 09:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-23**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 63 (63 - 81) bpm
   BP: 122/59(81) {108/53(77) - 143/78(215)} mmHg
   RR: 12 (10 - 15) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  3,170 mL
                                                                    697 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    364 mL
   IVF:
                                                                  1,050 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  1,390 mL
   Urine:
                                                                  2,240 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    930 mL
                                                                   -693 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 617 (545 - 688) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/53/75/29/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General: Alert, oriented, no acute distress, Intubated.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bronchial breath sounds over L base. Otherwise clear.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: No foley
   Ext: Warm, well perfused, 1+ pulses, no edema
   Labs / Radiology
   236 K/uL
   11.7 g/dL
   102 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   19 mg/dL
   98 mEq/L
   133 mEq/L
   35.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2196-1-21**]  02:07 AM
                             [**2196-1-21**]  02:33 PM
                             [**2196-1-21**]  04:39 PM
                             [**2196-1-22**]  12:51 AM
                             [**2196-1-22**]  02:47 AM
                             [**2196-1-22**]  10:00 AM
                             [**2196-1-22**]  11:36 AM
                             [**2196-1-22**]  05:45 PM
                             [**2196-1-23**]  04:01 AM
                             [**2196-1-23**]  04:08 AM
   WBC
   8.0
   8.7
   9.3
   Hct
   37.0
   35.5
   35.3
   Plt
   [**Telephone/Fax (3) 12939**]
   Cr
   1.0
   0.8
   0.8
   TCO2
   34
   33
   31
   31
   29
   34
   Glucose
   122
   115
   113
   102
   Other labs: PT / PTT / INR:13.5/39.0/1.2, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:74.0 %, Lymph:13.3 %, Mono:6.9 %, Eos:5.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: Pending
   Microbiology: [**2196-1-22**] 11:02 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2196-1-22**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   52 year-old gentleman with history of HTN, HL, CVA in [**2184**] with
   residual L-side weakness, HIV on HAART with most recent CD4 of 442 and
   undetectable VL on [**8-1**] who presented with LLL [**Hospital 10251**] transferred to
   MICU for hypoxia.
   # Hypoxia/Respiratory Failure. CT with worsening multifocal pneumonia
   from [**1-20**]. PEEP down to 10 overnight. Fi02 to 40%. Overall improving.
   Urine legionella negative, PCP [**Name Initial (PRE) 442**] (last CD4 count 442), Flu
   negative. BNP 34, less likely CHF although with bilateral pleural
   effusion. Troponin negative x 2 set, unlikely MI. PE very low
   likelihood given other findings as per above. Severe pulmonary
   hypertension most likely an underlying contributor. BAL negative
   - Continue Vanc, Cefepime, Flagyl to cover for HAP and aspiration
   pneumonia (day 1 = [**1-16**]). No need to expand Pseudomonal coverage at
   present.
   - Trend CXR
 While Intubated.
   - Ipratropium nebs q6h, Albuterol nebs q2h
   - Wean vent as tolerate; continue ARDSnet protocol
   - Obtain blood cultures for tomorrow AM
   - Consider ID (BAL has come back negative)
   - Obtain sputum culture
   # Seizure d/o s/p CVA. Patient had 10 second episode this morning of
   what appeared to be partial seizure, self-resolved, no post-ictal
   signs. Appears to be simple partial. Patient notes that he has had
   these episodes s/p CVA. Patient last saw neurology for these episodes
   in [**2186**]. He has not had treatment for it since that time (although they
   had recommended Dilantin), and does not express desire to obtain
   treatment for it.
   - Continue Ativan prn
   # HIV. Pt has been well controlled with CD4 count most recently 442 and
   VL undetectable.
   - Continue home-regimen of Ritonavir, Saquinavir; will give liquid
   Ritonavir and break up Saquinavir capsule and give through OG. Will
   monitor given concern for Ritonavir in reducing Fentanyl clearance.
   - Appreciate ID Recommendations
   # Chronic Diastolic Heart Failure with EF 40%. ECHO without definite
   change since [**2191**]. Question acute exacerbation in the setting of
   infection. Will closely monitor fluid status and BP.
   - Continue ACE inhibitor and beta-blocker
   - Gentle IVF prn low UOP
   - I/O goal to even
   # Coronary Artery Disease. Patient s/p CABG. Chest pain free.
   - Restart ACE inhibitor and beta-blocker
   - Continue statin
   # Hypertension. Will let be slightly hypertensive for now given
   infection and wanting to avoid hypotension. Continue home regimen.
   - Restart ACE inhibitor and beta-blocker
   # HCV. Patient not candidate for therapy and has had negative
   malignancy work up with USGs and AFP.
   # FEN: IVF bolus prn, replete electrolytes, tube feeds;
   # Prophylaxis: Subcutaneous heparin, bowel regimen; famotidine
   # Access: Peripherals, arterial line, midline
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Tube Feeds
   Replete with Fiber (Full) - [**2196-1-23**] 03:58 AM 50 mL/hour
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer: Famotidine
   VAP:  Per Protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2196-01-23 11:40:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 Sig sputum sent for cx
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2196-1-22**] 03:37 PM
   Cefipime - [**2196-1-22**] 07:58 PM
   Vancomycin - [**2196-1-23**] 09:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-1-22**] 11:35 AM
   Heparin Sodium (Prophylaxis) - [**2196-1-23**] 09:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-23**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 81) bpm
   BP: 131/74(95) {112/53(77) - 139/77(215)} mmHg
   RR: 11 (10 - 16) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  3,170 mL
                                                                  1,301 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    576 mL
   IVF:
                                                                  1,050 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                  2,050 mL
   Urine:
                                                                  2,240 mL
                                                                  2,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    930 mL
                                                                   -749 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 740 (545 - 740) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.40/53/75/29/5
   Ve: 5.6 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   236 K/uL
   102 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   19 mg/dL
   98 mEq/L
   133 mEq/L
   35.3 %
   9.3 K/uL
        [image002.jpg]
                             [**2196-1-21**]  02:07 AM
                             [**2196-1-21**]  02:33 PM
                             [**2196-1-21**]  04:39 PM
                             [**2196-1-22**]  12:51 AM
                             [**2196-1-22**]  02:47 AM
                             [**2196-1-22**]  10:00 AM
                             [**2196-1-22**]  11:36 AM
                             [**2196-1-22**]  05:45 PM
                             [**2196-1-23**]  04:01 AM
                             [**2196-1-23**]  04:08 AM
   WBC
   8.0
   8.7
   9.3
   Hct
   37.0
   35.5
   35.3
   Plt
   [**Telephone/Fax (3) 12939**]
   Cr
   1.0
   0.8
   0.8
   TCO2
   34
   33
   31
   31
   29
   34
   Glucose
   122
   115
   113
   102
   Other labs: PT / PTT / INR:13.5/39.0/1.2, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:74.0 %, Lymph:13.3 %, Mono:6.9 %, Eos:5.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53 yo man with HIV (CD4 of 500) with hypoxemic respiratory failure and
   b/l infiltrates of unclear etiology.
 Respiratory Failure:
   -b/l infiltrates improving
   -pHTN
   --Cont vanc/cefepime/flagyl empirically
   -Cx data remains unrevealing
   -weaning PEEP as tolerated
 HIV
   --HAART --> boosted single drug regimen
   -cont current regimen
access mid, aline
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 OLIGURIA/ANURIA
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2196-1-23**] 03:58 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2196-01-24 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: HIV, Hypoxic Respiratory Failure
   24 Hour Events:
   - Wean to PEEP of 5 - ABG: 7.41/50/65 -> PEEP to 8.
   - I/O: -1L at [**2185**], no lasix given.
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2196-1-23**] 08:45 PM
   Vancomycin - [**2196-1-23**] 09:15 PM
   Metronidazole - [**2196-1-24**] 04:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-1-23**] 12:55 PM
   Fentanyl - [**2196-1-23**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-23**] 10:25 PM
   Midazolam (Versed) - [**2196-1-23**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-24**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 65 (60 - 76) bpm
   BP: 119/58(79) {96/47(65) - 163/145(283)} mmHg
   RR: 11 (9 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,892 mL
                                                                    639 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    200 mL
   IVF:
                                                                  1,000 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                    750 mL
   Urine:
                                                                  3,540 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -648 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 444 (444 - 740) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.40/51/68/33/4
   Ve: 6.3 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General: Alert, oriented, no acute distress, Intubated.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bronchial breath sounds over L base. Otherwise clear.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: No foley
   Ext: Warm, well perfused, 1+ pulses, no edema
   Labs / Radiology
   258 K/uL
   12.2 g/dL
   110 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.6 mEq/L
   17 mg/dL
   97 mEq/L
   135 mEq/L
   36.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2196-1-22**]  12:51 AM
                             [**2196-1-22**]  02:47 AM
                             [**2196-1-22**]  10:00 AM
                             [**2196-1-22**]  11:36 AM
                             [**2196-1-22**]  05:45 PM
                             [**2196-1-23**]  04:01 AM
                             [**2196-1-23**]  04:08 AM
                             [**2196-1-23**]  05:35 PM
                             [**2196-1-24**]  03:39 AM
                             [**2196-1-24**]  05:58 AM
   WBC
   8.7
   9.3
   8.3
   Hct
   35.5
   35.3
   36.3
   Plt
   223
   236
   258
   Cr
   0.8
   0.8
   0.8
   TCO2
   31
   31
   29
   34
   33
   33
   Glucose
   115
   113
   102
   98
   110
   Other labs: PT / PTT / INR:13.7/41.3/1.2, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:74.0 %, Lymph:13.3 %, Mono:6.9 %, Eos:5.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: Pending
   Microbiology: Nothing New.
   Assessment and Plan
   52 year-old gentleman with history of HTN, HL, CVA in [**2184**] with
   residual L-side weakness, HIV on HAART with most recent CD4 of 442 and
   undetectable VL on [**8-1**] who presented with LLL [**Hospital 10251**] transferred to
   MICU for hypoxia.
   # Hypoxia/Respiratory Failure. CT with worsening multifocal pneumonia
   from [**1-20**]. PEEP down to 10 overnight. Fi02 to 40%. Overall improving.
   Urine legionella negative, PCP [**Name Initial (PRE) 442**] (last CD4 count 442), Flu
   negative. BNP 34, less likely CHF although with bilateral pleural
   effusion. Troponin negative x 2 set, unlikely MI. PE very low
   likelihood given other findings as per above. Severe pulmonary
   hypertension most likely an underlying contributor. BAL negative
   - Continue Vanc, Cefepime, Flagyl to cover for HAP and aspiration
   pneumonia (day 1 = [**1-16**]). No need to expand Pseudomonal coverage at
   present.
   - Trend CXR
 While Intubated.
   - Ipratropium nebs q6h, Albuterol nebs q2h
   - Wean vent as tolerate; continue ARDSnet protocol
   - Obtain blood cultures for tomorrow AM
   - Consider ID (BAL has come back negative)
   - Obtain sputum culture
   # Seizure d/o s/p CVA. Patient had 10 second episode this morning of
   what appeared to be partial seizure, self-resolved, no post-ictal
   signs. Appears to be simple partial. Patient notes that he has had
   these episodes s/p CVA. Patient last saw neurology for these episodes
   in [**2186**]. He has not had treatment for it since that time (although they
   had recommended Dilantin), and does not express desire to obtain
   treatment for it.
   - Continue Ativan prn
   # HIV. Pt has been well controlled with CD4 count most recently 442 and
   VL undetectable.
   - Continue home-regimen of Ritonavir, Saquinavir; will give liquid
   Ritonavir and break up Saquinavir capsule and give through OG. Will
   monitor given concern for Ritonavir in reducing Fentanyl clearance.
   - Appreciate ID Recommendations
   # Chronic Diastolic Heart Failure with EF 40%. ECHO without definite
   change since [**2191**]. Question acute exacerbation in the setting of
   infection. Will closely monitor fluid status and BP.
   - Continue ACE inhibitor and beta-blocker
   - Gentle IVF prn low UOP
   - I/O goal to even
   # Coronary Artery Disease. Patient s/p CABG. Chest pain free.
   - Restart ACE inhibitor and beta-blocker
   - Continue statin
   # Hypertension. Will let be slightly hypertensive for now given
   infection and wanting to avoid hypotension. Continue home regimen.
   - Restart ACE inhibitor and beta-blocker
   # HCV. Patient not candidate for therapy and has had negative
   malignancy work up with USGs and AFP.
   # FEN: IVF bolus prn, replete electrolytes, tube feeds;
   # Prophylaxis: Subcutaneous heparin, bowel regimen; famotidine
   # Access: Peripherals, arterial line, midline
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Tube Feeds
   Replete with Fiber (Full) - [**2196-1-23**] 03:58 AM 50 mL/hour
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer: Famotidine
   VAP:  Per Protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2196-01-24 08:47:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -PEEP weaned
   -SBT this morning -  RSBI 65
   -mod secretions
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2196-1-23**] 08:45 PM
   Vancomycin - [**2196-1-23**] 09:15 PM
   Metronidazole - [**2196-1-24**] 04:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-1-23**] 12:55 PM
   Fentanyl - [**2196-1-23**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2196-1-23**] 10:25 PM
   Midazolam (Versed) - [**2196-1-23**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-24**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 65 (60 - 76) bpm
   BP: 119/58(79) {96/47(65) - 163/145(283)} mmHg
   RR: 11 (9 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,892 mL
                                                                    646 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    200 mL
   IVF:
                                                                  1,000 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                    750 mL
   Urine:
                                                                  3,540 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -648 mL
                                                                   -104 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 444 (444 - 696) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.39/44/68/33/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   258 K/uL
   110 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.6 mEq/L
   17 mg/dL
   97 mEq/L
   135 mEq/L
   36.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2196-1-22**]  02:47 AM
                             [**2196-1-22**]  10:00 AM
                             [**2196-1-22**]  11:36 AM
                             [**2196-1-22**]  05:45 PM
                             [**2196-1-23**]  04:01 AM
                             [**2196-1-23**]  04:08 AM
                             [**2196-1-23**]  05:35 PM
                             [**2196-1-24**]  03:39 AM
                             [**2196-1-24**]  05:58 AM
                             [**2196-1-24**]  08:20 AM
   WBC
   8.7
   9.3
   8.3
   Hct
   35.5
   35.3
   36.3
   Plt
   223
   236
   258
   Cr
   0.8
   0.8
   0.8
   TCO2
   31
   29
   34
   33
   33
   28
   Glucose
   115
   113
   102
   98
   110
   Other labs: PT / PTT / INR:13.7/41.3/1.2, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:74.0 %, Lymph:13.3 %, Mono:6.9 %, Eos:5.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   53 yo man with HIV (CD4 of 500) with hypoxemic respiratory failure and
   b/l infiltrates of unclear etiology.
 Respiratory Failure:
   -b/l infiltrates cont improving
   -pHTN
   --Cont vanc/cefepime/flagyl empirically
   -Cx data remains unrevealing
   -looks like ready for extubation this morning

 HIV
   --HAART --> boosted single drug regimen
   -cont current regimen
access mid, aline
 SEIZURE, WITHOUT STATUS EPILEPTICUS
    -no seizure activity
 OLIGURIA/ANURIA
   -resolved
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 32 minutes
   Patient is critically ill

2196-01-25 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2196-1-24**] 08:59 AM
   - Extubated in early morning yesterday
 did very well
   - Talking, eating
   - Fluid balance net negative: -1.5 L at midnight without diuresis
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2196-1-24**] 07:47 PM
   Vancomycin - [**2196-1-24**] 08:15 PM
   Metronidazole - [**2196-1-25**] 03:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-1-24**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-25**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.4
C (95.7
   HR: 68 (62 - 74) bpm
   BP: 117/57(78) {97/55(73) - 138/81(102)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,220 mL
                                                                    173 mL
   PO:
                                                                    620 mL
             TF:
                                                                    200 mL
   IVF:
                                                                  1,040 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                    880 mL
   Urine:
                                                                  3,715 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -707 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 51 (51 - 51) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: 7.35/61/73.[**Numeric Identifier 218**]/32/5
   PaO2 / FiO2: 183
   Physical Examination
   General: Alert, oriented, no acute distress, extubated and comfortable
   on nasal cannula
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bronchial breath sounds over L base. Otherwise clear.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs. PMI located in
   5^th intercosal space
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: No foley
   Ext: Warm, well perfused, 1+ pulses, no edema
   Labs / Radiology
   277 K/uL
   12.3 g/dL
   94 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.2 mEq/L
   15 mg/dL
   97 mEq/L
   135 mEq/L
   36.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2196-1-22**]  11:36 AM
                             [**2196-1-22**]  05:45 PM
                             [**2196-1-23**]  04:01 AM
                             [**2196-1-23**]  04:08 AM
                             [**2196-1-23**]  05:35 PM
                             [**2196-1-24**]  03:39 AM
                             [**2196-1-24**]  05:58 AM
                             [**2196-1-24**]  08:20 AM
                             [**2196-1-25**]  02:38 AM
                             [**2196-1-25**]  02:41 AM
   WBC
   9.3
   8.3
   8.2
   Hct
   35.3
   36.3
   36.4
   Plt
   [**Telephone/Fax (3) 12967**]
   Cr
   0.8
   0.8
   0.9
   TCO2
   31
   29
   34
   33
   33
   28
   35
   Glucose
   102
   98
   110
   94
   Other labs: PT / PTT / INR:14.2/58.3/1.2, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:74.0 %, Lymph:13.3 %, Mono:6.9 %, Eos:5.5 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 DYSPNEA (SHORTNESS OF BREATH)
 OLIGURIA/ANURIA
   52 year-old gentleman with history of HTN, HL, CVA in [**2184**] with
   residual L-side weakness, HIV on HAART with most recent CD4 of 442 and
   undetectable VL on [**8-1**] who presented with LLL [**Hospital 10251**] transferred to
   MICU for hypoxia.
   # Hypoxia/Respiratory Failure. Continues to improve. CT with worsening
   multifocal pneumonia from [**1-20**]. PEEP down to 10 overnight. Fi02 to 40%.
   Overall improving. Urine legionella negative, PCP [**Name Initial (PRE) 442**] (last CD4
   count 442), Flu negative. BNP 34, less likely CHF although with
   bilateral pleural effusion. Troponin negative x 2 set, unlikely MI. PE
   very low likelihood given other findings as per above. Severe pulmonary
   hypertension most likely an underlying contributor. BAL negative
   - Continue Vanc, Cefepime, Flagyl to cover for HAP and aspiration
   pneumonia (day 1 = [**1-16**]). No need to expand Pseudomonal coverage at
   present.
   - Extubate
   - Ipratropium nebs q6h, Albuterol nebs q2h
   # Seizure d/o s/p CVA. Patient had 10 second episode this morning of
   what appeared to be partial seizure, self-resolved, no post-ictal
   signs. Appears to be simple partial. Patient notes that he has had
   these episodes s/p CVA. Patient last saw neurology for these episodes
   in [**2186**]. He has not had treatment for it since that time (although they
   had recommended Dilantin), and does not express desire to obtain
   treatment for it.
   - Continue Ativan prn
   # HIV. Pt has been well controlled with CD4 count most recently 442 and
   VL undetectable.
   - Continue home-regimen of Ritonavir, Saquinavir; will give liquid
   Ritonavir and break up Saquinavir capsule and give through OG. Will
   monitor given concern for Ritonavir in reducing Fentanyl clearance.
   - Appreciate ID Recommendations
   # Chronic Diastolic Heart Failure with EF 40%. ECHO without definite
   change since [**2191**]. Question acute exacerbation in the setting of
   infection. Will closely monitor fluid status and BP.
   - Continue ACE inhibitor and beta-blocker
   - Gentle IVF prn low UOP
   - I/O goal to even
   # Coronary Artery Disease. Patient s/p CABG. Chest pain free.
   - Restart ACE inhibitor and beta-blocker
   - Continue statin
   # Hypertension. Will let be slightly hypertensive for now given
   infection and wanting to avoid hypotension. Continue home regimen.
   - Restart ACE inhibitor and beta-blocker
   # HCV. Patient not candidate for therapy and has had negative
   malignancy work up with USGs and AFP.
   # FEN: IVF bolus prn, replete electrolytes, tube feeds;
   # Prophylaxis: Subcutaneous heparin, bowel regimen; famotidine
   # Access: Peripherals, arterial line, midline
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-01-25 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2196-1-24**] 08:59 AM
   - Extubated in early a.m. - did very well
   - Talking, eating.
   - Fluid balance net negative: - 1.5 L at midnight without diuresis.
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2196-1-24**] 07:47 PM
   Vancomycin - [**2196-1-24**] 08:15 PM
   Metronidazole - [**2196-1-25**] 03:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-1-24**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-25**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.4
C (95.7
   HR: 68 (62 - 74) bpm
   BP: 113/58(78) {97/55(73) - 138/81(102)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,220 mL
                                                                    180 mL
   PO:
                                                                    620 mL
             TF:
                                                                    200 mL
   IVF:
                                                                  1,040 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                    880 mL
   Urine:
                                                                  3,715 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 51 (51 - 51) mL
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 90%
   ABG: 7.35/61/73.[**Numeric Identifier 218**]/32/5
   PaO2 / FiO2: 183
   Physical Examination
   General: Alert, oriented, no acute distress, Intubated.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Bronchial breath sounds over L base. Mild bibasilar crackles.
   Otherwise clear.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: No foley
   Ext: Warm, well perfused, 1+ pulses, no edema
   Labs / Radiology
   277 K/uL
   12.3 g/dL
   94 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.2 mEq/L
   15 mg/dL
   97 mEq/L
   135 mEq/L
   36.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2196-1-22**]  11:36 AM
                             [**2196-1-22**]  05:45 PM
                             [**2196-1-23**]  04:01 AM
                             [**2196-1-23**]  04:08 AM
                             [**2196-1-23**]  05:35 PM
                             [**2196-1-24**]  03:39 AM
                             [**2196-1-24**]  05:58 AM
                             [**2196-1-24**]  08:20 AM
                             [**2196-1-25**]  02:38 AM
                             [**2196-1-25**]  02:41 AM
   WBC
   9.3
   8.3
   8.2
   Hct
   35.3
   36.3
   36.4
   Plt
   [**Telephone/Fax (3) 12967**]
   Cr
   0.8
   0.8
   0.9
   TCO2
   31
   29
   34
   33
   33
   28
   35
   Glucose
   102
   98
   110
   94
   Other labs: PT / PTT / INR:14.2/58.3/1.2, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:74.0 %, Lymph:13.3 %, Mono:6.9 %, Eos:5.5 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   52 year-old gentleman with history of HTN, HL, CVA in [**2184**] with
   residual L-side weakness, HIV on HAART with most recent CD4 of 442 and
   undetectable VL on [**8-1**] who presented with LLL [**Hospital 10251**] transferred to
   MICU for hypoxia.  Was extubated yesterday without issues with plan to
   transfer to floor today.
   # Hypoxia/Respiratory Failure. Continues to improve and patient
   extubated without issues yesterday. CT with worsening multifocal
   pneumonia from [**1-20**]. Urine legionella negative, PCP [**Name Initial (PRE) 442**] (last CD4
   count 442), Flu negative. BNP 34, less likely CHF although with
   bilateral pleural effusion. Troponin negative x 2 set, unlikely MI. PE
   very low likelihood given other findings as per above. Severe pulmonary
   hypertension most likely an underlying contributor. BAL negative.
   - Continue Vanc, Cefepime, Flagyl to cover for HAP and aspiration
   pneumonia (day 1 = [**1-16**]) for 14 day course. No need to expand
   Pseudomonal coverage at present.
   - Patient should get PFTs done as outpatient for ?underlying COPD (Most
   recent ABG with CO2 61)
   - Ipratropium nebs q6h, Albuterol nebs q2h
 patient will benefit from
   continuing these or MDI versions as outpatient for ?underlying COPD
   # Seizure d/o s/p CVA. Patient had 10 second episode yesterday morning
   of what appeared to be partial seizure, self-resolved, no post-ictal
   signs. Appears to be simple partial. Patient notes that he has had
   these episodes s/p CVA. Patient last saw neurology for these episodes
   in [**2186**]. He has not had treatment for it since that time (although they
   had recommended Dilantin), and does not express desire to obtain
   treatment for it.
   - Continue Ativan prn
   # HIV. Pt has been well controlled with CD4 count most recently 442 and
   VL undetectable.
   - Continue home-regimen of Ritonavir, Saquinavir; will give liquid
   Ritonavir and break up Saquinavir capsule and give through OG. Will
   monitor given concern for Ritonavir in reducing Fentanyl clearance.
   - Appreciate ID Recommendations
   # Chronic Diastolic Heart Failure with EF 40%. ECHO without definite
   change since [**2191**]. Question acute exacerbation in the setting of
   infection. Will closely monitor fluid status and BP.
   - Continue ACE inhibitor and beta-blocker
   - Gentle IVF prn low UOP
   - I/O goal to even
 better in last 12 hours
   # Coronary Artery Disease. Patient s/p CABG. Chest pain free.
   - Continue ACE inhibitor and beta-blocker  (re-started yesterday)
   - Continue statin
   # Hypertension. Will let be slightly hypertensive for now given
   infection and wanting to avoid hypotension. Continue home regimen.
   - Restart ACE inhibitor and beta-blocker
   # HCV. Patient not candidate for therapy and has had negative
   malignancy work up with USGs and AFP.
   # FEN: IVF bolus prn, replete electrolytes, tube feeds;
   # Prophylaxis: Subcutaneous heparin, bowel regimen; famotidine
   # Access: Peripherals, arterial line, midline
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: Tube Feeds
   Replete with Fiber (Full) - [**2196-1-23**] 03:58 AM 50 mL/hour
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT: Subcutaneous Heparin
   Stress ulcer: Famotidine
   VAP:  Per Protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2196-01-25 09:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   feeling better
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2196-1-24**] 08:59 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ilosone (Oral) (Erythromycin Estolate)
   "RENAL PROBLEMS
   Dicloxacillin
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2196-1-24**] 07:47 PM
   Vancomycin - [**2196-1-24**] 08:15 PM
   Metronidazole - [**2196-1-25**] 03:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-1-24**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine, HIV
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-1-25**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.4
C (95.7
   HR: 68 (62 - 74) bpm
   BP: 113/58(78) {97/55(73) - 138/81(102)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115 kg (admission): 112 kg
   Height: 60 Inch
             Total In:
                                                                  2,220 mL
                                                                    195 mL
   PO:
                                                                    620 mL
             TF:
                                                                    200 mL
   IVF:
                                                                  1,040 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                    880 mL
   Urine:
                                                                  3,715 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                   -685 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.35/61/73.[**Numeric Identifier 218**]/32/5
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), 2/6 sem
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : diffuse exp, No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand, prior CVA
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   277 K/uL
   94 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.2 mEq/L
   15 mg/dL
   97 mEq/L
   135 mEq/L
   36.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2196-1-22**]  11:36 AM
                             [**2196-1-22**]  05:45 PM
                             [**2196-1-23**]  04:01 AM
                             [**2196-1-23**]  04:08 AM
                             [**2196-1-23**]  05:35 PM
                             [**2196-1-24**]  03:39 AM
                             [**2196-1-24**]  05:58 AM
                             [**2196-1-24**]  08:20 AM
                             [**2196-1-25**]  02:38 AM
                             [**2196-1-25**]  02:41 AM
   WBC
   9.3
   8.3
   8.2
   Hct
   35.3
   36.3
   36.4
   Plt
   [**Telephone/Fax (3) 12967**]
   Cr
   0.8
   0.8
   0.9
   TCO2
   31
   29
   34
   33
   33
   28
   35
   Glucose
   102
   98
   110
   94
   Other labs: PT / PTT / INR:14.2/58.3/1.2, CK / CKMB /
   Troponin-T:266/3/0.02, ALT / AST:23/32, Alk Phos / T Bili:52/0.5,
   Differential-Neuts:74.0 %, Lymph:13.3 %, Mono:6.9 %, Eos:5.5 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:215 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 DYSPNEA (SHORTNESS OF BREATH)
 OLIGURIA/ANURIA
   Improving resp failure. We do not have a good explanation for his acute
   episode.  One possibility is aspiration. We will nevertheless complete
   14d course of abx for severe CAP.  Unclear what his underlying lung dis
   is - diffuse wheezing on exam now.  He also has CT and echo c/w pulm
   HTN - possibly HIV related but need to understand the nature of his
   pulm dis to determine if pulm HTN is secondary to lung dis.  Needs PFTs
   and full pulm eval this adm.
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2196-1-18**] 02:30 PM
   Arterial Line - [**2196-1-19**] 01:09 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: